US07101899B1
N-[4-(4-methoxypheny)-5-[2-[(3-pyridylcarbonylamino)]-4-pyridyl]-1,3-thiazol-2-yl]nicotinamide
Nicotinoyl chloride hydrochloride (0.72 g, 4.1 mmol) and 4-dimethylaminopyridine (0.05 g, 0.4 mmol) were added to a solution of 4-[2-amino-4-(4-methoxyphenyl)-1,3-thiazol-5-yl]-2-pyridylamine (0.41 g, 1.4 mmol) in N,N-dimethylacetamide (10 mL) and the mixture was stirred at 70° C. for 19 hours. After the reaction mixture was cooled to room temperature, a saturated aqueous solution of sodium hydrogencarbonate (50 mL) was added. The resulting crude crystals were collected by filtration and washed with water. The crude crystals were recrystallized from ethanol to obtain 0.23 g (0.44 mmol, yield 33%) of the title compound.

reactant | Nicotinoyl chloride hydrochloride | 4.1 mmol, 0.72 g | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | 4-[2-amino-4-(4-methoxyphenyl)-1,3-thiazol-5-yl]-2-pyridylamine | 1.4 mmol, 0.41 g | NC=1SC(=C(N1)C1=CC=C(C=C1)OC)C1=CC(=NC=C1)N | C15H14N4OS
reactant | sodium hydrogencarbonate | 50 mL | C(O)([O-])=O.[Na+]
catalyst | 4-dimethylaminopyridine | 0.4 mmol, 0.05 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | N,N-dimethylacetamide | 10 mL | CN(C(C)=O)C | C4H9NO
product | N-[4-(4-methoxypheny)-5-[2-[(3-pyridylcarbonylamino)]-4-pyridyl]-1,3-thiazol-2-yl]nicotinamide | 0.44 mmol, 0.23 g, yield 33% | COC1=CC=C(C=C1)C=1N=C(SC1C1=CC(=NC=C1)NC(=O)C=1C=NC=CC1)NC(C1=CN=CC=C1)=O | C27H20N6O3S
